US07001917B2
Step 1. 2-[4-(4-Ethyl-3,5-dimethyl-1H-pyrazol-1-yl)phenyl]ethanol
The title compound was prepared according to the procedure described in step 1 of Example 1 from 3-ethyl-2,4-pentanedione and 2-(4-hydrazinophenyl)ethanol hydrochloride: MS (ESI) m/z 245 [M+H]+, 1H-NMR (CDCl3) δ 7.36-7.26 (4H, m), 3.84 (2H, t, J=6.6 Hz), 2.89 (2H, t, J=6.6 Hz), 2.24 (2H, q, J=7.5 Hz), 2.26 (3H, s), 2.22 (3H, s), 1.12 (3H, t, J=7.5 Hz).

reactant | 3-ethyl-2,4-pentanedione | C(C)C(C(C)=O)C(C)=O | C7H12O2
reactant | 2-(4-hydrazinophenyl)ethanol hydrochloride | Cl.N(N)C1=CC=C(C=C1)CCO
product | 2-[4-(4-Ethyl-3,5-dimethyl-1H-pyrazol-1-yl)phenyl]ethanol | C(C)C=1C(=NN(C1C)C1=CC=C(C=C1)CCO)C | C15H20N2O
